US07732477B2
N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-3-chloro-6-fluoro-1-benzothiophene-2-carboxamide hydrochloride
191.1 mg (0.83 mmol) of 3-chloro-6-fluoro-1-benzothiophene-2-carboxylic acid, 150.0 mg (0.75 mmol) of R-3-aminoquinuclidine dihydrochloride, 343.7 mg (0.90 mmol) of HATU, 350.5 mg (2.71 mmol) of N,N-diisopropylethylamine and 3.0 ml of DMF are reacted according to the general procedure (variant B). The reaction mixture is purified by preparative HPLC. The product is dissolved in 4M HCl in dioxane, then reconcentrated and dried under high vacuum. 223.3 mg (77.4% of theory) of the title compound are obtained.

reactant | 3-chloro-6-fluoro-1-benzothiophene-2-carboxylic acid | 0.83 mmol, 191.1 mg | ClC1=C(SC2=C1C=CC(=C2)F)C(=O)O | C9H4ClFO2S
reactant | HATU | 0.90 mmol, 343.7 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 2.71 mmol, 350.5 mg | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 3.0 ml | CN(C)C=O | C3H7NO
product | N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-3-chloro-6-fluoro-1-benzothiophene-2-carboxamide hydrochloride | Cl.N12C[C@@H](C(CC1)CC2)NC(=O)C=2SC1=C(C2Cl)C=CC(=C1)F | InChI=1S/C16H16ClFN2OS.ClH/c17-14-11-2-1-10(18)7-13(11)22-15(14)16(21)19-12-8-20-5-3-9(12)4-6-20;/h1-2,7,9,12H,3-6,8H2,(H,19,21);1H/t12-;/m0./s1
